### ISSUE TITLE
Track E: executeSequences loop completeness theorem

### ISSUE THREAD

**Issue by kim-em** [kim-em/lean-zip#1169]
### Current state

- **Track E (Zstd)**: 48/48 conformance, sorry count 4 (all XxHash UInt64)
- **`executeSequences.loop`** (ZstdSequence.lean:178): structural recursion on
  `List ZstdSequence` — fully proof-friendly, no opaque loops
- **Existing `executeSequences` spec theorems** (ZstdSequence.lean):
  - `executeSequences_loop_inv` (line 224) — size/litPos invariants ASSUMING success
  - `executeSequences_loop_output_size_ge` (line 262) — output monotonicity
  - `executeSequences_loop_cons` (line 287) — single-step unfolding
  - `executeSequences_loop_getElem_lt` (line 330) — content preservation
  - `executeSequences_loop_history_valid` (line 1300) — history validity preservation
  - `executeSequences_loop_history_size` (line 1326) — history size preservation
  - `executeSequences_empty` (line 1515) — empty sequences case
  - `executeSequences_output_length` (line 1489) — output length characterization
  - `executeSequences_history_valid` (line 1531) — wrapper history validity
  - `executeSequences_history_size` (line 1551) — wrapper history size
- **`resolveOffset_positive_all`** (line 1383) — unified positivity for all offset
  cases, the key lemma for proving offset != 0

- **Gap**: No `executeSequences_loop_succeeds` or `executeSequences_succeeds` theorem.
  All existing theorems take `.ok` as a hypothesis — none prove WHEN the function
  returns `.ok`. This is the critical missing link for composed completeness of
  compressed blocks with sequences.

### Deliverables

1. **`executeSequences_loop_succeeds`** in `Zip/Spec/ZstdSequence.lean`:

   Prove that `executeSequences.loop` returns `.ok` when all sequence guards pass.

   The loop (ZstdSequence.lean:178-198) has four error conditions per iteration:
   - `litPos + seq.literalLength > literals.size` (insufficient literals)
   - `(resolveOffset seq.offset history seq.literalLength).1 == 0` (zero offset)
   - `offset > output.size` (offset exceeds output buffer)
   - `windowSize > 0 && offset > windowSize` (offset exceeds window)

   Statement sketch:
   ```lean
   theorem executeSequences_loop_succeeds
       (seqs : List ZstdSequence) (literals : ByteArray)
       (output : ByteArray) (history : Array Nat) (litPos : Nat) (windowSize : Nat)
       -- All literal lengths fit within remaining literals
       (hlit : litPos + seqs.foldl (fun acc s => acc + s.literalLength) 0 ≤ literals.size)
       -- Offset validity: for each sequence, the resolved offset is positive,
       -- within the (growing) output buffer, and within window size.
       -- The exact formulation of the offset hypothesis may need refinement —
       -- it must account for the output buffer growing by literalLength + matchLength
       -- at each step. Consider a Forall-style predicate or an inductive invariant.
       ⟨hypotheses about offset validity at each step⟩ :
       ∃ output' history' litPos',
         executeSequences.loop seqs literals output history litPos windowSize
           = .ok (output', history', litPos') := by
   ```

   **Proof strategy**:
   Induction on `seqs`, following the exact pattern of `executeSequences_loop_inv`
   (line 224-258). The base case is immediate (`.ok`). The inductive step:
   1. `rw [executeSequences.loop.eq_2]`
   2. Show `¬(litPos + seq.literalLength > literals.size)` from `hlit`
   3. Show `offset ≠ 0` from `resolveOffset_positive_all` + `ValidOffsetHistory` invariant
   4. Show `¬(offset > output.size)` from the offset bound hypothesis
   5. Show window constraint from hypothesis
   6. Apply the inductive hypothesis for `rest` with updated state
   7. Use `copyBytes_size` and `copyMatch_size` to track output buffer growth

   The **hardest part** is formulating the offset hypothesis cleanly. Two approaches:
   - **Explicit step predicate**: A recursive predicate that checks each sequence's
     offset against the output buffer that exists at that point. Clean but verbose.
   - **Sufficient condition**: A simpler overapproximation, e.g., "all offsets ≤ initial
     output size" (too weak) or "all offsets ≤ windowSize" (works for windowed mode).

   The worker should start with the **windowed case** (`windowSize > 0`), where the
   offset bound simplifies to `offset ≤ windowSize` (which doesn't depend on the
   growing buffer). This is the common case in real Zstd frames.

   ~15-20 lines of statement + 20-30 lines of proof.

2. **`executeSequences_succeeds`** in `Zip/Spec/ZstdSequence.lean`:

   Lift the loop theorem to the wrapper function (ZstdSequence.lean:212-221).
   The wrapper calls `executeSequences.loop` then does `copyBytes` for remaining
   literals and `ByteArray.extract` for the block output. These operations are
   total (no errors), so the lifting is mechanical.

   ```lean
   theorem executeSequences_succeeds (sequences : Array ZstdSequence)
       (literals : ByteArray)
       (windowPrefix : ByteArray)
       (offsetHistory : Array Nat)
       (windowSize : Nat)
       ⟨same hypotheses as loop version, with litPos=0 and output=windowPrefix⟩ :
       ∃ blockOutput history',
         executeSequences sequences literals windowPrefix offsetHistory windowSize
           = .ok (blockOutput, history') := by
   ```

   ~10 lines of statement + 5-10 lines of proof (unfold, apply loop theorem, close).

Place both theorems in a new section:
```lean
/-! ## executeSequences completeness -/
```
after the existing `executeSequences_history_size` theorem (line ~1570).

### Context

This is the **critical gap** in the compressed block completeness chain. Without
`executeSequences_succeeds`, the `decompressBlocksWF_succeeds_single_compressed_sequences`
theorem (#1166) cannot be further composed down to byte-level conditions for frames
with sequences.

The function's structural recursion on `List ZstdSequence` makes this provable —
no refactoring needed. The existing invariant theorems (especially `_loop_inv`)
demonstrate the induction pattern.

Key supporting theorems already in master:
- `resolveOffset_positive_all` (line 1383) — offset positivity
- `resolveOffset_history_valid_of_fst_ne_zero` (line 1273) — history validity preservation
- `executeSequences_loop_history_size` (line 1326) — history size preservation
- `copyBytes_size`, `copyMatch_size` — output buffer size tracking

No overlap with existing issues:
- #1166: Composed completeness for compressed blocks (takes executeSequences
  success as hypothesis — this issue provides the proof of that hypothesis)
- #1150: parseFrameHeader field characterization (different function)
- #1162: Meditate (self-improvement, not implementation)

Estimation: 2 deliverables × difficulty 2 (induction following established pattern,
but offset hypothesis formulation requires care) = 4. Within bounds.
1 file modified: `Zip/Spec/ZstdSequence.lean`. ~60-80 lines total.

### Verification

1. `lake build Zip.Spec.ZstdSequence` — no errors
2. `lake exe test` — all tests pass
3. Sorry count unchanged (4, all XxHash)
4. No existing theorem statements changed or removed
5. No `native_decide`
6. Both proofs follow the established induction pattern from `executeSequences_loop_inv`

**Comment by kim-em** [comment]
Session: `a888eba2-0c2c-48aa-853d-c4ddb091d377` Branch: `agent/d4c4557a`

**Comment by kim-em** [comment]
Claimed by session `c3b7e5cf-0104-47b1-9d2b-985b02923e8b` on branch `agent/b5188d24`
